### PR TITLE
Add Erdős Problem 602 (Komjáth's Property B for almost-disjoint families)

### LINKED ISSUE #821: Erdős Problem 602
### What is the conjecture
    
https://www.erdosproblems.com/602

  Let $(A_i)$ be a family of sets with $\lvert A_i\rvert=\aleph_0$ for all $i$, such that for any $i\neq j$ we have $\lvert A_i\cap A_j\rvert$ finite and $\neq 1$. Is there a $2$-colouring of $\cup A_i$ such that no $A_i$ is monochromatic?
  

Status:  open

### Choose either option
- [ ] I plan on working on this conjecture
- [x] This issue is up for grabs: I would like to see this conjecture added by somebody else

### PR DESCRIPTION
**Pull request by henrykmichalewski**
fixes #821 

## Problem

Erdős Problem 602: https://www.erdosproblems.com/602

> Let $(A_i)$ be a family of sets with $|A_i| = \aleph_0$, such that for any $i \neq j$ we have $|A_i \cap A_j|$ finite and $\neq 1$. Is there a 2-colouring of $\bigcup A_i$ such that no $A_i$ is monochromatic?

A problem of Komjáth. The 2-colouring property is sometimes known as Property B.

## What this PR adds

A new file `FormalConjectures/ErdosProblems/602.lean` containing:

- **Main open theorem** `erdos_602` — the original Komjáth question
- **Six proved variants** covering disjoint families, single sets, empty/unique/two-element index families
- **One open sub-variant** for the countable-index case
- **Five sanity-check examples** demonstrating non-vacuity and concrete witnesses
- **One formal disproof** of a natural misformalization (dropping the infiniteness hypothesis), with SafeVerify-style audit checks

The file is self-contained — it imports only `FormalConjectures.Util.ProblemImports`.

## Formulation choices

- **Ground set is arbitrary `Type*`** (not restricted to `ℕ`). The original problem doesn't specify a ground set; using arbitrary types covers families of countable subsets of uncountable spaces.
- **`|A_i| = ℵ_0`** is encoded as `Set.Countable s ∧ s.Infinite`, matching the style in `ErdosProblems/1071.lean` and `143.lean`.
- All variants accept arbitrary ground type via `{α : Type*}` implicit argument.

## Build status

Builds cleanly against the project's pinned Mathlib version. No new `sorry`s outside the explicitly open theorems.

## Acknowledgement

This formalization was developed with assistance from Claude (Anthropic), with iterative human review and verification.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/602.lean [hunk 1]
```diff
@@ -0,0 +1,487 @@
...
+negation type. -/
+@[category research solved, AMS 3]
+theorem disjoint_without_infinite_claim.type_check : ¬ disjoint_without_infinite_claim :=
+  disjoint_without_infinite_claim.disproof
+
+/-- SafeVerify-style alternate name: the claim is not provable (because it's false). -/
+@[category research solved, AMS 3]
+theorem disjoint_without_infinite_claim.not_provable :
+    disjoint_without_infinite_claim → False :=
+  disjoint_without_infinite_claim.disproof
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/602.lean]:
```suggestion
```

File: FormalConjectures/ErdosProblems/602.lean [hunk 2]
```diff
@@ -0,0 +1,487 @@
...
+    constructor
+    · rintro ⟨⟨k, hk⟩, rfl | ⟨m, hm⟩⟩ <;> omega
+    · rintro rfl; exact ⟨⟨0, by ring⟩, Or.inl rfl⟩
+  rw [heq, Set.ncard_singleton]
+
+/- ## Disproofs of natural-looking false variants
+
+Following the SafeVerify PR #16 pattern, we formally disprove plausible
+misformalizations to document which hypotheses are load-bearing. -/
+
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/602.lean]:
```suggestion

```

**Review by mo271 — APPROVED** [review]
Thanks!
Mathematically correct and very thorough testing, great!
The docstrings are more verbose than usual, but I guess ok, 

Just some suggesting to remove some superfluous tests and reference to pr that don't exist here

File: FormalConjectures/ErdosProblems/602.lean [hunk 3]
```diff
@@ -0,0 +1,475 @@
...
+  intro x hx y hy
+  simp only [Set.mem_singleton_iff] at hx hy
+  rw [hx, hy]
+
+/-- Type assertion: the disproof has the negation type. If the claim definition
+drifts out of sync, this line fails to elaborate. -/
+@[category research solved, AMS 3]
+theorem disjoint_without_infinite_claim.type_check : ¬ disjoint_without_infinite_claim :=
+  disjoint_without_infinite_claim.disproof
+
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/602.lean]:
```suggestion
```
not useful

**Review by mo271 — APPROVED** [review]
Thanks!

File: FormalConjectures/ErdosProblems/602.lean [hunk 4]
```diff
@@ -0,0 +1,469 @@
+/-
+Copyright 2025 The Formal Conjectures Authors.
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/602.lean]:
```suggestion
Copyright 2026 The Formal Conjectures Authors.
```
